US03956321
To a reaction vessel equipped with a reflux condenser, nitrogen inlet and oil bath were introduced 2.008 grams (0.035 mol) anhydrous potassium fluoride, 0.458 gram (0.0013 mol) dibenzo-18-crown-6, and 20 ml. dry acetonitrile. This mixture was refluxed at about 82°C. for 30 minutes, and thereafter 3.011 grams (0.016 mol) 4-nitrophthalic anhydride was added and the mixture refluxed for an additional 43 hours. After cooling to room temperature, methylene chloride was added to the reaction mixture, and the latter filtered to remove solid material. Concentration of the filtrate under vacuum yielded 2 grams of 4-fluorophthalic anhydride containing a small amount of the dibenzo-18-crown-6. To remove this latter crown ether, the material was dissolved in aqueous potassium hydroxide, extracted with ethyl acetate, and acidified with hydrochloric acid to a pH 1. Extraction with ethyl acetate yield 1.195 grams (42% yield) of pure 4-fluorophthalic acid which can be dehydrated to yield 4-fluorophthalic anhydride.

reactant | potassium fluoride | 0.035 mol, 2.008 grams | [F-].[K+]
reactant | dibenzo-18-crown-6 | 0.0013 mol, 0.458 gram | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 4-nitrophthalic anhydride | 0.016 mol, 3.011 grams | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-fluorophthalic anhydride | 2 grams | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
